US06294527B1
5-Methylthio-7-oxo-7H-thieno[3,2-b]thiopyran (2.14 g, 10 mmol) was dissolved in acetic acid (140 ml) and added dropwise with bromine (0.96 ml). The reaction mixture was stirred at 50° C. for 16 hours. The resulting precipitates were collected by filtration, washed with water and dried. The reaction product was purified by column chromatography(Wako Gel™ C-200: dichloromethane-ethyl acetate=15:1) to obtain 1.98 g (yield: 67%) of 6-bromo-5-methylthio-7-oxo-7H-thieno[3,2-b]thiopyran.

reactant | 5-Methylthio-7-oxo-7H-thieno[3,2-b]thiopyran | 10 mmol, 2.14 g | CSC1=CC(C2=C(S1)C=CS2)=O | C8H6OS3
reactant | bromine | 0.96 ml | BrBr | Br2
reactant | dichloromethane ethyl acetate | ClCCl.C(C)(=O)OCC
solvent | acetic acid | 140 ml | C(C)(=O)O | C2H4O2
product | 6-bromo-5-methylthio-7-oxo-7H-thieno[3,2-b]thiopyran | 1.98 g, yield: 67% | BrC=1C(C2=C(SC1SC)C=CS2)=O | C8H5BrOS3
